US07601868B2
N-[2-(4-acetylphenyl)ethyl]-4-bromobenzamide
To a solution of 4-bromo-N-(2-phenylethyl)benzamide (10.0 g, 32.9 mmol) and acetyl chloride (3.04 ml, 42.7 mmol) in dichloromethane (80 ml) was added aluminum chloride (11.0 g, 82.2 mmol), and the mixture was stirred at room temperature for one day. The reaction mixture was poured into ice, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure, and the obtained residue was powderized with isopropyl ether to give the title compound (9.79 g).

reactant | 4-bromo-N-(2-phenylethyl)benzamide | 32.9 mmol, 10.0 g | BrC1=CC=C(C(=O)NCCC2=CC=CC=C2)C=C1 | C15H14BrNO
reactant | acetyl chloride | 42.7 mmol, 3.04 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 82.2 mmol, 11.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-[2-(4-acetylphenyl)ethyl]-4-bromobenzamide | 9.79 g | C(C)(=O)C1=CC=C(C=C1)CCNC(C1=CC=C(C=C1)Br)=O | C17H16BrNO2
